US05151436
A solution of 2-chloro-3-cyclopentylidenemethylquinoline (7.6 g, 31.3 mmol) in glacial acetic acid (80 ml) at 60° C. was treated with zinc powder (4.0 g, 62.6 mmol). After stirring at 60° C. for 3 hours, the reaction mixture was cooled and then treated dropwise with 2M aqueous sodium hydroxide solution (330 ml); the temperature being kept below 20° C. throughout. The resulting mixture was then extracted with ethyl acetate (2×250 ml). The combined organic extracts were dried over sodium sulphate then concentrated in vacuo (30° C., 14 mm Hg) to give a crude red oil (8 g) which was extracted with hot pentane (2×200 ml). Concentration of the combined extracts in vacuo (20° C., 14 mm Hg) afforded 3-cyclopentylidenemethylquinoline (4 g, 31 mmol) which was used without further purification N.M.R. (CDCl3) 1.6-1.96 (m, 4H); 2.5-2.72 (m, 4H); 6.50 (m, 1H), 7.46-7.58 (ddd, 1H) 7.60-7.68 (ddd, 1H), 7.76-7.80 (dd, 1H); 8.0-8.08 (c, 2H).

reactant | 2-chloro-3-cyclopentylidenemethylquinoline | 31.3 mmol, 7.6 g | ClC1=NC2=CC=CC=C2C=C1C=C1CCCC1 | C15H14ClN
reactant | sodium hydroxide | 2M, 330 ml | [OH-].[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 62.6 mmol, 4.0 g | [Zn] | Zn
product | 3-cyclopentylidenemethylquinoline | 31 mmol, 4 g | C1(CCCC1)=CC=1C=NC2=CC=CC=C2C1 | C15H15N
